US07087750B2
4-(4-Methyl-1-piperazinyl)-1-(4-methylbenzenesulfonyl)-1H-indole hydrochloride (Scheme 1)
The title compound was prepared 4-(4-methyl-1-piperazinyl)-1H-indole and p-methylbenzenesulfonyl chloride according to Method 4 (45%): 1H NMR (CD3OD) δ 7.81–6.77 (m, 9H), 3.62–3.02 (m, 8H), 2.98 (s, 3H), 2.34 (s, 3H); MS (ESI) 370.5 (M+H)+; Purity (HPLC) >95%.

reactant | 4-(4-methyl-1-piperazinyl)-1H-indole | CN1CCN(CC1)C1=C2C=CNC2=CC=C1 | C13H17N3
reactant | p-methylbenzenesulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
product | 4-(4-Methyl-1-piperazinyl)-1-(4-methylbenzenesulfonyl)-1H-indole hydrochloride | Cl.CN1CCN(CC1)C1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C20H23N3O2S.ClH/c1-16-6-8-17(9-7-16)26(24,25)23-11-10-18-19(4-3-5-20(18)23)22-14-12-21(2)13-15-22;/h3-11H,12-15H2,1-2H3;1H
